US05101028
A mixture of 1000 ml of ethylene glycol monoethyl ether, 120 g of 3-aminocrotonitrile and 365 g of N-cyanoacetyl-N'-stearoylhydrazine was heated to 135° C. within 2 hours and then refluxed for a further 2 hours. Addition of 150 g of anhydrous zinc chloride and boiling for a further 4 hours were followed by dilution of the melt with 2000 ml of water and addition of 200 ml of 12 % by weight hydrochloric acid. The precipitated product was filtered off with suction, washed with water and dried at 80° C. under reduced pressure. 397 g of 6-cyano-2-heptadecyl-7-hydroxy-5-methyl[1,2,4]triazolo[2,3-a]pyridine were obtained. The compound melts at 274 to 275° C. after recrystallization from acetic acid and has the following analysis:

reactant | ethylene glycol monoethyl ether | 1000 ml | C(C)OCCO | C4H10O2
reactant | 3-aminocrotonitrile | 120 g | C/C(=C\C#N)/N | C4H6N2
reactant | N-cyanoacetyl-N'-stearoylhydrazine | 365 g | C(#N)CC(=O)NNC(CCCCCCCCCCCCCCCCC)=O | C21H39N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | water | 2000 ml | O | H2O
catalyst | zinc chloride | 150 g | [Cl-].[Zn+2].[Cl-]
product | 6-cyano-2-heptadecyl-7-hydroxy-5-methyl[1,2,4]triazolo[2,3-a]pyridine | 397 g | C(#N)C=1C(=CC=2N(C1C)N=C(N2)CCCCCCCCCCCCCCCCC)O | C25H40N4O
